US07858717B2
4-Bromo-6-tert-butyl-2-methyl-1-indanone
A mixture of 3-(2-bromo-4-tert-butylphenyl)-2-methylpropanoic acid (46 g, 150 mmol) and SOCl2 (18 ml, 220 mmol) was stirred for 1 h at 40° C. The excess of SOCl2 was removed in vacuo. The residue was dissolved in CH2Cl2 (50 ml) and added at 0° C. to a suspension of 20 g AlCl3 in CH2Cl2 (200 ml). The reaction mixture was stirred overnight, poured into ice/water (500 g) containing 50 ml of conc. HCl. The organic phase was collected, washed with water, dried over MgSO4 and evaporated. The residue was distilled at 125-130° C. /0.5 torr giving 32 g (76%) of product.

reactant | 3-(2-bromo-4-tert-butylphenyl)-2-methylpropanoic acid | 150 mmol, 46 g | BrC1=C(C=CC(=C1)C(C)(C)C)CC(C(=O)O)C | C14H19BrO2
reactant | SOCl2 | 220 mmol, 18 ml | O=S(Cl)Cl | Cl2OS
product | 4-Bromo-6-tert-butyl-2-methyl-1-indanone | 32 g, 76% | BrC1=C2CC(C(C2=CC(=C1)C(C)(C)C)=O)C | C14H17BrO
